US07420059B2
A NaHMDS solution in THF (112 mL, 1.0 M) was diluted with 50 mL of dry THF and cooled to −78° C. A solution of cyclohexanone (10.6 mL, 102 mmol) in 50 mL of dry THF was added dropwise over 10 min. After the addition, the mixture was allowed to warm to room temperature and stirred at 0° C. for 15 min before it was cooled to −78° C. again. A pre-cooled solution of methyl 2-[(4-fluorophenyl)methylene]-4-methyl-3-oxo-pentanoic acid (30.7 g, 123 mmol) in 30 mL of dry THF at −78° C. was added quickly via a cannula. The reaction mixture was stirred at −78° C. for 3 h and quenched with acetic acid (30 mL, 524 mmol) in 30 mL of THF. After warming to room temperature the reaction was diluted with 50 mL of water and extracted with ethyl acetate (3×100 mL). The organic fractions were combined, washed with saturated aqueous sodium chloride solution (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuum to provide methyl 4-fluoro-α-(1-oxo-2-methylpropyl)-β-(2-oxocyclohexyl)benzenepropanoate a pale yellow oil: LCMS (method 5) tR=2.1 min; (ESI, pos. ion spectrum) m/z 349 (M+H).

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclohexanone | 102 mmol, 10.6 mL | C1(CCCCC1)=O | C6H10O
reactant | methyl 2-[(4-fluorophenyl)methylene]-4-methyl-3-oxo-pentanoic acid | 123 mmol, 30.7 g | CC(C(C(C(=O)O)=CC1=CC=C(C=C1)F)=O)(C)C | C14H15FO3
reactant | acetic acid | 524 mmol, 30 mL | C(C)(=O)O | C2H4O2
solvent | THF | 1.0 M, 112 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | methyl 4-fluoro-α-(1-oxo-2-methylpropyl)-β-(2-oxocyclohexyl)benzenepropanoate | FC1=CC=C(C=C1)C(C(C(=O)OC)C(C(C)C)=O)C1C(CCCC1)=O | C20H25FO4
